US09126931B2
9-Methoxy-6,6-dimethyl-6H-benzo[b]naphtho[2,3-d]furan-11-one
To the DCM solution (1 ml) of 2-(1-benzofuran-2-yl-1-methylethyl)-5-methoxy benzoic acid (63 mg), trifluoroacetic anhydride (0.03 ml) was added at room temperature under nitrogen atmosphere. The mixture was stirred for 30 min. The reaction mixture was then added with water and extracted with DCM. The organic layer was dried over sodium sulfate. The residues obtained after concentration under reduced pressure were purified by silica gel column (DCM) to obtain the title compound (50 mg, 84%).

reactant | DCM | 1 ml | C(Cl)Cl | CH2Cl2
reactant | 2-(1-benzofuran-2-yl-1-methylethyl)-5-methoxy benzoic acid | 63 mg | O1C(=CC2=C1C=CC=C2)C(C)(C)C2=C(C(=O)O)C=C(C=C2)OC | C19H18O4
reactant | trifluoroacetic anhydride | 0.03 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | water | O | H2O
product | 9-Methoxy-6,6-dimethyl-6H-benzo[b]naphtho[2,3-d]furan-11-one | 50 mg, 84% | COC1=CC=C2C(C3=C(C4=C(O3)C=CC=C4)C(C2=C1)=O)(C)C | C19H16O3
